US06028195
1-[(5-Acetyl-2-methoxy-4-methylphenyl)aminocarbonyl]-4-(3,5-dimethoxyphenyl)piperazine
Phenyl N-(5-acetyl-2-methoxy-4-methylphenyl)carbamate and 1-(3,5-dimethoxyphenyl)piperazine were reacted by the same way with the example 170 to obtain the titled compound.

reactant | Phenyl N-(5-acetyl-2-methoxy-4-methylphenyl)carbamate | C(C)(=O)C=1C(=CC(=C(C1)NC(OC1=CC=CC=C1)=O)OC)C | C17H17NO4
reactant | 1-(3,5-dimethoxyphenyl)piperazine | COC=1C=C(C=C(C1)OC)N1CCNCC1 | C12H18N2O2
product | 1-[(5-Acetyl-2-methoxy-4-methylphenyl)aminocarbonyl]-4-(3,5-dimethoxyphenyl)piperazine | yield: 91% | C(C)(=O)C=1C(=CC(=C(C1)NC(=O)N1CCN(CC1)C1=CC(=CC(=C1)OC)OC)OC)C | C23H29N3O5
